US07053105B2
A mixture of ethynyl-benzene (0.0021 mol), Pd(PPh3)2Cl2(0.0002 mol) and copper (I) iodide (0.0002 mol) was added at room temperature to a mixture of (±)-2-chloro-4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-6-quinolinemethanol (0.0014 mol), described in International Patent Specification WO 00/39082, in N-ethyl-ethanamine (7ml) and DMF (7 ml) under N2 flow. The mixture was stirred at room temperature overnight, then at room temperature for 3 days, poured out into ice water and extracted with EtOAc. The organic layer was separated, washed three times with water, dried (MgSO4), filtered and the solvent was evaporated. The residue (1.2 g) was purified by column chromatography over silica gel (eluent: CH2Cl2 100 to CH2Cl2/CH3OH 98/2 98/2; 35–70 μm). The pure fractions were collected and the solvent was evaporated, yielding 0.5 g of a fraction which was taken up in diethyl ether. The precipitate was filtered off and dried. The residue (0.28 g) was purified by column chromatography over kromasil (eluent: CH3CN/CH3COONH4 1% 75/25; 10 μm). The pure fractions were collected and the solvent was evaporated, yielding: 0.279 g of a product which was dried at 90° C. in a vacuum for 4 hours, yielding 0.14 g (18%) of 4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-2-(phenylethynyl)-6-quinolinemethanol, mp. 154° C.

reactant | ethynyl-benzene | 0.0021 mol | C(#C)C1=CC=CC=C1 | C8H6
reactant | (±)-2-chloro-4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-6-quinolinemethanol | 0.0014 mol | ClC1=NC2=CC=C(C=C2C(=C1)C1=CC(=CC=C1)Cl)C(O)(C1=CN=CN1C)C1=CC=C(C=C1)Cl | C26H18Cl3N3O
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | N-ethyl-ethanamine | 7ml | C(C)NCC | C4H11N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd(PPh3)2Cl2 | 0.0002 mol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.0002 mol | [Cu]I
product | 4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-2-(phenylethynyl)-6-quinolinemethanol | 0.14 g, 18% | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C1=CN=CN1C)C1=CC=C(C=C1)Cl)C#CC1=CC=CC=C1 | C34H23Cl2N3O
